US07902308B2
2.2—Synthesis of 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)amino]methyl]phenol (Compound 2)
To a suspension of 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)imino]methyl]phenol (0.91 g, 2.41 mmol) in methanol (20 ml) was added NaBH4 (1.2 g), in small portions. The yellow suspension was stirred for 2 hours during which the yellow solution turned clear. Water (10 ml) was then slowly added, the organic phase separated and the aqueous phase extracted with dichloromethane (3×10 ml). The organic fractions were combined, dried (NaSO4), and the solvent removed under reduced pressure. The crude product was purified by recrystallisation from hot hexane to afford the product as large colourless crystals. Yield 0.48 g, 95%.

reactant | 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)imino]methyl]phenol | 2.41 mmol, 0.91 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=NC1=C(C=CC=C1Br)Br)O | C21H25Br2NO
reactant | NaBH4 | 1.2 g | [BH4-].[Na+]
reactant | Water | 10 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)amino]methyl]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)CNC1=C(C=CC=C1Br)Br)O | C21H27Br2NO
